US04308051
3-[2-nitro-5-(2,4-dichloro-6-fluorophenoxy)-phenoxy]-tetrahydrofuran [compound No. (2)]:
3.9 g (0.045 mole) of 3-hydroxytetrahydrofuran, 2.5 g (0.045 mole) of potassium hydroxide and 100 ml of dioxane were mixed with stirring. To the resulting solution was added at room temperature, a solution of 7.2 g (0.015 mole) of 2,4-bis(2,4-dichloro-6-fluorophenoxy)-nitrobenzene in 20 ml of dioxane. Then, the mixture was stirred for 2 hours while maintaining at 60° to 70° C. to perform ether exchange reaction. The reaction mixture was allowed to cool, and poured into 300 ml of cold water. It was extracted with 200 ml of benzene with shaking. The benzene layer was fully washed with water and dried over anhydrous sodium sulfate. The benzene was distilled off under reduced pressure to afford 5.5 g (94.7%) of a pale yellow oily product. The oily product was chromatographed on a silica gel column using chloroform as an eluent to afford 4 g (68.9%) of the title compound.

reactant | 3-hydroxytetrahydrofuran | 0.045 mole, 3.9 g | OC1COCC1 | C4H8O2
reactant | potassium hydroxide | 0.045 mole, 2.5 g | [OH-].[K+]
reactant | 2,4-bis(2,4-dichloro-6-fluorophenoxy)-nitrobenzene | 0.015 mole, 7.2 g | ClC1=C(OC2=C(C=CC(=C2)OC2=C(C=C(C=C2F)Cl)Cl)[N+](=O)[O-])C(=CC(=C1)Cl)F | C18H7Cl4F2NO4
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 3-[2-nitro-5-(2,4-dichloro-6-fluorophenoxy)-phenoxy]-tetrahydrofuran | 5.5 g, 94.7% | [N+](=O)([O-])C1=C(OC2COCC2)C=C(C=C1)OC1=C(C=C(C=C1F)Cl)Cl | C16H12Cl2FNO5
